Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
SOB  
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ PMH CHF, DM, HTN, HLD, CKD and anemia presents from PCP 
___/ concern for pulmonary edema. Pt states she has had dyspnea on 
exertion, which has been worsening in past 2 weeks. She also 
notes orthopnea and bilateral lower extremity edema. She has had 
a mildly productive cough. She does not believe that she has 
gained weight although she does not weight herself daily. Her 
granddaugther states the pt often adds salt to food because she 
finds regular food bland.  
She denies chest pain, fevers, nausea/vomiting, diarrhea, or 
abdominal pain.  
Pt was recently discharged several days ago from ___ per her 
granddaughter with anemia and shortness of breath. She received 
3u prbc for an initial hct 16 and on discharge hct 28. 
Colonoscopy and EGD negative. Stress normal. She was started on 
20 mg PO lasix but stopped due to concern for worsening Cr. 
Currently not on diuretics. Of note, the pt is Mandrin speaking 
only and the interview is conducted with the aid of her 
granddaughter.  
In the ED initial vitals were: 98.3 73 160/54 18 99%  
- Labs were significant for Cr 2.1, BNP 4077, h/h 9.___.9  
- ___ was given nothing  
Vitals prior to transfer were: 98.0 71 166/65 18 99% RA  
On the floor, pt is resting comfortably. She is eating ___ 
food she has brought from home.  
Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, chest pain, abdominal pain, 
nausea, vomiting, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria.  
 
Past Medical History:
Diabetes mellitus type 2.  
Hypertension.  
CKD (recent baseline 1.9-2.3)  
hypercholesterolemia  
iron deficiency anemia  
moderate mitral regurgitation  
peripheral neuropathy.  
CAD with remote history of MI
Hyperlipidemia

PAST SURGICAL HISTORY
R total hip replacement ___
s/p hysterectomy

 
Social History:
___
Family History:
 No kidney disease or heart disease
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION
===========================
Vitals - 98.4, 180/72 -> on recheck 164/62, 79, 97% on RA  
GENERAL: NAD, ___ speaking elderly woman  
HEENT: AT/NC, anicteric sclera, pink conjunctiva, MMM,  
NECK: JVP difficult to assess due to R EJ  
CARDIAC: RRR, II/VI holosystolic murmur  
LUNG: crackles at bases bilaterally  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: 1+ pitting edema to shins bilterally  
PULSES: 2+ DP pulses bilaterally  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes 

PHYSICAL EXAM ON DISCHARGE
===========================
Vitals:  98.6 (Tm 99.0)  152/59 (119-179)/(38-52)  73 (57-73)  
18  97%RA
Tele: NSR ~65
Last 24 hours I/O: 1010/50 //1550
Last 8 hours I/O:  -- // 400
Weight on admission: 62.6 kgs
___: 61.9 kg
___: 68.1 kg
GENERAL: NAD, ___ speaking elderly woman, seen with nasal 
cannula. 
HEENT:  MMM,  
NECK: no EJ, JVD still unable to appreciate.  
CARDIAC: RRR, II/VI holosystolic murmur  
LUNG: CTAB 
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: no edema
PULSES: 2+ DP pulses bilaterally  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes
 
Pertinent Results:
LABS ON ADMISSION
-------------------
___ 05:45PM BLOOD WBC-5.6 RBC-3.43* Hgb-9.3* Hct-29.7* 
MCV-87# MCH-27.1 MCHC-31.3 RDW-18.4* Plt ___
___ 05:45PM BLOOD Neuts-75.7* Lymphs-16.7* Monos-4.7 
Eos-2.9 Baso-0
___ 05:45PM BLOOD Hypochr-2+ Anisocy-2+ Poiklo-OCCASIONAL 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Ovalocy-OCCASIONAL
___ 05:45PM BLOOD ___ PTT-28.5 ___
___ 05:45PM BLOOD Plt ___
___ 05:45PM BLOOD Glucose-303* UreaN-35* Creat-2.1* Na-140 
K-4.3 Cl-105 HCO3-24 AnGap-15
___ 06:15AM BLOOD ALT-12 AST-18 AlkPhos-80 TotBili-0.4
___ 05:45PM BLOOD CK(CPK)-146
___ 05:45PM BLOOD CK-MB-3 proBNP-4077*
___ 05:45PM BLOOD Calcium-8.9 Phos-2.9 Mg-2.2

PERTINENT RESULTS
------------------
___:
___
5.5>4.9/16.3<262 MCV 76
127/4.5/101/___/2.26
Iron 17, TIBC 385 Ferritin 13

LABS ON DISCHARGE
------------------
___ 06:20AM BLOOD WBC-6.1 RBC-3.55* Hgb-9.5* Hct-30.8* 
MCV-87 MCH-26.8* MCHC-30.8* RDW-19.4* Plt ___
___ 06:20AM BLOOD Plt ___
___ 06:20AM BLOOD Glucose-137* UreaN-38* Creat-2.3* Na-141 
K-4.3 Cl-103 HCO3-27 AnGap-15
___ 06:20AM BLOOD Calcium-9.2 Phos-4.1 Mg-2.5

OTHER FLUID ANALYSIS
none

MICROBIOLOGY
---------------
none

IMAGING
-------
___ Imaging CHEST (PA & LAT) 
FINDINGS:  
  
Mild to moderate enlargement of the heart is present. Aortic 
knob 
calcifications are visualized. Mediastinal contour is 
unremarkable. There is mild pulmonary vascular congestion along 
with small bilateral pleural 
effusions.  Mild streaky bibasilar opacities likely reflect 
atelectasis. No pneumothorax is identified. No acute osseous 
abnormality is detected. Remote left rib fractures are 
identified. 
  
IMPRESSION:  
  
Mild pulmonary vascular congestion and small bilateral pleural 
effusions. 
  

EKGS
-----
___ Cardiovascular ECG 
Sinus rhythm. Probable old infero-posterolateral myocardial 
infarction. 
Compared to the previous tracing of ___ decreased lateral T 
wave 
abnormality. 
  
 
Read by: ___. 
 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
74 156 88 ___ ___ w/ PMH CHF, DM, HTN, HLD, CKD and anemia presents with 
recent hospitalization from ___, concerning for 
severe anemia (Hct 16), acute on chronic kidney injury, and CHF 
exacerbation, now presenting from PCP ___/ concern for SOB

BRIEF HOSPITAL COURSE 
=====================
ACTIVE ISSUES
-------------- 
#ACUTE ON CHRONIC DIASTOLIC CONGESTIVE HEART FAILURE: ___ 
presents clinically volume overloaded, unclear trigger, although 
___ does have much dietary indiscretion per report and also 
s/p colloid resuscitation at OSH. Unclear NSAID use from hip 
pain. Anemia at this time most likely not contributing as 
___ has been repleted w 3 UPRBCs at ___, currently 
H/H stable. Diuretics discontinued only on day of admission, per 
___ granddaughter. ACS ruled out with downtrending mild 
troponinemia, flat CK-MB and EKGS without acute or new changes. 
___ diuresed with improvement in shortness of breath. TTE 
not repeated this admission due to recent TTE (___) at OSH. 
Admission weight: 62.6 kgs. Discharge weight:61.4 kg. 

# ANEMIA: Unclear source. Severely iron deficient per OSH labs. 
EGD from OSH significant for chronic gastritis, + H.pylori. 
Colonoscopy normal at OSH. ___ is to continue iron 
repletion. She was started on triple therapy for H. pylori. She 
is to follow up with Dr. ___ 
___ for further management. 

# H. PYLORI: EGD from OSH significant for chronic gastritis, + 
H.pylori. She is to continue triple therapy for fourteen day 
course. Day 1: ___, End Date ___. ___ home dose 
simvastatin was changed to pravastatin due to contraindication 
between simvastatin and pravastatin. 

# CHRONIC KIDNEY DISEASE: ___ with Cr of 2.6 upon admission 
to ___. Appears to have resolved as our Cr on file (since 
___ ~2.0. Possibly due to severe anemia as described 
aboove. ___ home dose lisinopril (recently discontinued at 
___ d/t ___ restarted this admission as Cr returned to 
baseline 2.0. Cr on discharge 2.3, most likely ___ to 
overdiuresis. Please continue to monitor Cr as outpatient. 

# HYPERTENSION: ___ with high systolics, peak 190s when 
controlled solely with metoprolol, hydralazine and Imdur. 
Lisinopril restarted with improvement of blood pressures. 

# DIABETES MELLITUS TYPE II, NOT ON INSULIN: ___ oral 
medications held on admission. ___ maintained on insulin 
sliding scale while inpatient, restarted oral medications upon 
discharg with exception of pioglitazone as thiazolidinediones 
can worsen heart failure.

# HYPERLIPIDEMIA: ___ home dose statin (simvastatin) 
changed to pravastatin due to contraindication betwee 
simvastatin and clarithromycin. 

# h/o CORONARY ARTERY DISEASE: ___ currently on aspirin, 
statin, beta blocker. ACE restarted this admission. 

TRANSITIONAL ISSUES
===================
[] GASTRO/PCP: ___ to finish 14 day course of triple therapy 
for H. pylori (Start day ___, End Date ___
[] PCP: ___ simvastatin changed to pravastatin due to 
contraindication between simvastatin and clarithromycin. Please 
monitor for rhabdomylosis.
[] Cardio: Consider d/c Imdur/hydral as outpatient
[] PCP: ___ with restart of lisinopril 
[] PCP: ___ held as ___ with heart failure. Please 
monitor blood sugars.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. HydrALAzine 10 mg PO Q8H 
3. Pioglitazone 45 mg PO DAILY 
4. GlipiZIDE 5 mg PO DAILY 
5. Januvia (sitaGLIPtin) 25 mg oral daily 
6. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
7. Simvastatin 20 mg PO QPM 
8. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1. HydrALAzine 20 mg PO Q8H 
RX *hydralazine 25 mg 1 tablet(s) by mouth three times a day 
Disp #*60 Tablet Refills:*0
2. Polyethylene Glycol 17 g PO DAILY 
3. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0
4. Ferrous Sulfate 325 mg PO DAILY 
RX *ferrous sulfate [Feosol] 325 mg (65 mg iron) 1 tablet(s) by 
mouth daily Disp #*60 Tablet Refills:*0
5. Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0
6. GlipiZIDE 5 mg PO DAILY 
7. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
8. Januvia (sitaGLIPtin) 25 mg oral daily 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Amoxicillin 1000 mg PO Q12H Duration: 14 Days 
RX *amoxicillin 500 mg 2 capsule(s) by mouth twice a day Disp 
#*52 Capsule Refills:*0
11. Clarithromycin 500 mg PO Q12H Duration: 14 Days 
RX *clarithromycin [Biaxin] 500 mg 1 tablet(s) by mouth twice a 
day Disp #*26 Tablet Refills:*0
12. Pantoprazole 40 mg PO Q12H Duration: 14 Days 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*26 Tablet Refills:*0
13. Pravastatin 20 mg PO QPM 
RX *pravastatin [Pravachol] 20 mg 1 tablet(s) by mouth daily 
Disp #*60 Tablet Refills:*0
14. Furosemide 40 mg PO DAILY 
RX *furosemide 40 mg 1 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
------------------
ACUTE ON CHRONIC DIASTOLIC CONGESTIVE HEART FAILURE
H. PYLORI INFECTION

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for shortness of breath, most likely due fluid 
retention. This is most likely due to the blood received at your 
last hospitalization and your kidney injury. We were able to 
increase your water pills to give you more relief.  

Please weigh yourself everday. Let your doctor know if you gain 
more than 3 lbs. Your weight on discharge was 61.4 kg (135.4 kg)

In addition, your blood pressure was a little bit high. At your 
last hospitalization at ___, they had discontinued 
lisinopril because you had some additional kidney injury (which 
was mostly likely due to low blood counts). Here, it appears 
that your kidney function has returned to your baseline 
(creatinine 2.0), so we feel comfortable restarting your 
lisinopril.

During your hospitalization, we received records from ___ 
that indicate that you have a H. pylori infection in your 
stomach. We started you on "triple therapy" which you should 
continue to take for a 14 day course.

Please continue to take your medications as prescribed.

It was a pleasure taking care of you at ___. We wish you well

Sincerely
Your Team at ___
 
Followup Instructions:
___